US06677348B2
3-(2-Methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl (3-Phenylprop-2-ynyl) Ether
Under a nitrogen atmosphere, a mixture of 3-(2-methyl-1H-Imidazo[4,5-c]quinolin-1-yl)propyl (prop-2-ynyl) ether (4.6585 g, 16.68 mmol) from Part A, anhydrous acetonitrile (60 mL), anhydrous triethylamine (6 mL, 43.37 mmol), and iodobenzene (2.1 mL, 18.34 mmol) was heated to 80° C. with stirring. Dichlorobis(triphenylphosphine)palladium(II) (0.23 g, 0.334 mmol), and copper(I) iodide (0.13 g, 0.667 mmol) were added and the mixture was allowed to stir for 0.5 hour. Analysis by HPLC indicated that the reaction was complete. The reaction mixture was concentrated under reduced pressure, and the concentrate was purified by column chromatography over silica gel, employing dichloromethane (1 L) and 98/2 dichloromethane/methanol as the eluants. The resulting green oil (5.1 g) was triturated with ether, but no solids formed. The oil was placed under high vacuum (4 torr) at room temperature. HNMR analysis of the resulting oil showed the presence of ether. The oil was further dried under high vacuum to provide 4.7 g of dark oil.

reactant | 3-(2-methyl-1H-Imidazo[4,5-c]quinolin-1-yl)propyl (prop-2-ynyl) ether | 16.68 mmol, 4.6585 g | C(C#C)OCCCN1C(=NC=2C=NC=3C=CC=CC3C21)C | C17H17N3O
reactant | acetonitrile | 60 mL | C(C)#N | C2H3N
reactant | triethylamine | 43.37 mmol, 6 mL | C(C)N(CC)CC | C6H15N
reactant | iodobenzene | 18.34 mmol, 2.1 mL | IC1=CC=CC=C1 | C6H5I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.334 mmol, 0.23 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.667 mmol, 0.13 g | [Cu]I
solvent | ether | CCOCC | C4H10O
product | 3-(2-Methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl (3-Phenylprop-2-ynyl) Ether | 4.7 g | C1(=CC=CC=C1)C#CCOCCCN1C(=NC=2C=NC=3C=CC=CC3C21)C | C23H21N3O
